* /home/shubhangi/esim-workspace/exmpl/exmpl.cir

.include NPN.lib
.include LED.lib
q1 gnd net-_q1-pad2_ net-_q1-pad3_ Q2N2222
* u3  net-_u1-pad4_ net-_r1-pad1_ dac_bridge_1
d1 out3 out4 LED
r1  net-_r1-pad1_ net-_q1-pad2_ 470
r3  net-_q1-pad3_ net-_d3-pad1_ 150
r2  out4 net-_q1-pad3_ 150
* u2  out1 gnd net-_u2-pad3_ net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ adc_bridge_3
d3 net-_d3-pad1_ out2 LED
d4 out2 out1 LED
d2 out3 out1 LED
v1 out1 gnd  dc 5
v2  net-_u2-pad3_ gnd pulse(0 5 0 0 0 0.5e-6 1e-6)
* u5  out3 plot_v1
* u4  out4 plot_v1
* u6  out2 plot_v1
* u7  out1 plot_v1
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ ? ? ? ? ? attiny25
a1 [net-_u1-pad4_ ] [net-_r1-pad1_ ] u3
a2 [out1 gnd net-_u2-pad3_ ] [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ ] u2
a3 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ ] [net-_u1-pad4_ ] [? ] [? ] [? ] [? ] [? ] u1
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u3 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_3, NgSpice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             attiny25, NgSpice Name: attiny25
.model u1 attiny25(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 0.5e-06 800e-06 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out3)
plot v(out4)
plot v(out2)
plot v(out1)
.endc
.end
