* /home/sumanto/nghdl/attiny85/demo/attiny85/attiny85-test/attiny85-test.cir

v2  net-_u3-pad3_ gnd pulse(0 5 0 0 0 0.5e-6 1e-6)
r1  pb0 gnd 1k
* u6  pb0 plot_v1
v1 net-_u3-pad1_ gnd  dc 5
* u2  net-_u1-pad8_ pb0 dac_bridge_1
* u3  net-_u3-pad1_ gnd net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ adc_bridge_7
v5 net-_u3-pad6_ gnd  dc 0
v4 net-_u3-pad5_ gnd  dc 0
v3 net-_u3-pad4_ gnd  dc 5
v6 net-_u3-pad7_ gnd  dc 0
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ ? attiny_85_nghdl
a1 [net-_u1-pad8_ ] [pb0 ] u2
a2 [net-_u3-pad1_ gnd net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ ] [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ ] u3
a3 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ ] [net-_u1-pad4_ ] [net-_u1-pad5_ ] [net-_u1-pad6_ ] [net-_u1-pad7_ ] [net-_u1-pad8_ ] [? ] u1
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u2 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_7, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             attiny_85_nghdl, NgSpice Name: attiny_85_nghdl
.model u1 attiny_85_nghdl(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 0.5e-06 2000e-06 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(pb0)
.endc
.end
