* /home/ash98/esim-workspace/piso_test1/piso_test1.cir

* u4  net-_u1-pad6_ serial_out dac_bridge_1
r1  serial_out gnd 1k
* u5  serial_out plot_v1
* u3  clock plot_v1
* u1  ? ? ? ? net-_u1-pad5_ net-_u1-pad6_ piso
v1  clock gnd pulse(0 5 0 0 0 10m 20m)
* u2  clock net-_u1-pad5_ adc_bridge_1
a1 [net-_u1-pad6_ ] [serial_out ] u4
a2 [? ] [? ] [? ] [? ] [net-_u1-pad5_ ] [net-_u1-pad6_ ] u1
a3 [clock ] [net-_u1-pad5_ ] u2
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_high=6 t_rise=1.0e-9 out_undef=0.5 out_low=0.0 t_fall=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             piso, NgSpice Name: piso
.model u1 piso(instance_id=1 rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u2 adc_bridge(fall_delay=1.0e-9 in_low=1.0 in_high=2.0 rise_delay=1.0e-9 ) 
.tran 0.1e-03 500e-03 0e-00

* Control Statements 
.control
*******Style Parameters******
set hcopydevtype=postscript
set color0 = rgb:f/f/e
set xfont 20
*background
set color1 = rgb:/f/f/f
set xbrushwidth 10
*grid and text
set color2 = rgb:f/0/0  
*vector0
set color3 = rgb:0/0/f  
*vector1
set color4 = rgb:f/0/0
*vector2 

run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(serial_out) v(clock)
plot v(clock) v(serial_out)
.endc
.end
